US05773530
A mixture of 3-[2-(2-oxocyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (231 mg), semicarbazide hydrochloride (101 mg), potassium carbonate (125 mg), water (2 ml), and ethanol (10 ml) was heated under reflux for 4 hours. Ethanol was evaporated in vacuo and the residue was partitioned between dichloromethane (30 ml) and saturated aqueous sodium bicarbonate (30 ml). After an additional extraction with dichloromethane, the combined extracts were washed with brine (20 ml), dried over anhydrous sodium sulfate, and evaporated in vacuo to give colorless crystals of 3-[2-(2-carbamoylhydrazonocyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (125.8 mg).

reactant | 3-[2-(2-oxocyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 231 mg | O=C1C(CCCC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C23H20N4O2
reactant | semicarbazide hydrochloride | 101 mg | Cl.NNC(=O)N
reactant | potassium carbonate | 125 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 2 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-[2-(2-carbamoylhydrazonocyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 125.8 mg | C(N)(=O)NN=C1C(CCCC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C24H23N7O2
